US04692532
N-(3,5-di-tert-butyl-4-hydroxyphenylthiomethyl)-2-(3,5-ditert-butyl-4-hydroxyphenylthio)succinimide
The procedure of Example 3 was repeated using 10.0 grams of N-(hydroxymethyl)-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinimide, 2.33 ml of methanesulfonylchloride, 5.72 ml of triethylamine, 6.52 grams of 3,5-di-tert-butyl-4-hydroxybenzene thiol and 1.09 grams of sodium hydroxide. Flash column chromatography (SiO2, 5:1 heptane:ethylacetate) afforded 7.09 grams of product as white solid, m.p. 138°-140° C.

reactant | N-(hydroxymethyl)-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinimide | 10.0 grams | OCN1C(C(CC1=O)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C19H27NO4S
reactant | methanesulfonylchloride | 2.33 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,5-di-tert-butyl-4-hydroxybenzene thiol | 6.52 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S | C14H22OS
reactant | sodium hydroxide | 1.09 grams | [OH-].[Na+]
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | heptane | CCCCCCC | C7H16
solvent | triethylamine | 5.72 ml | C(C)N(CC)CC | C6H15N
product | N-(3,5-di-tert-butyl-4-hydroxyphenylthiomethyl)-2-(3,5-ditert-butyl-4-hydroxyphenylthio)succinimide | 7.09 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCN1C(C(CC1=O)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C33H47NO4S2
